US08748596B2
(6-Chloro-pyridin-3-yl)-[1,4]diazepan-1-yl-methanone
A solution of homopiperazine (385.62 g, 3.85 mol) in THF (3.9 L) was cooled to an internal temperature of 0° C. and ethyl 6-chloronicotinate (285.82 g, 1.54 mol) was added in THF (0.57 L) over 5 min. After stirring for 10 minutes, n-hexyl lithium (2.3 M in hexane, 335 mL, 0.77 mol) was added to the resulting mixture, over 40 min. The resulting mixture was stirred for 2 h at 0° C., then warmed to 20° C. over 1 h. After an additional 15 h at 20° C., the resulting mixture was treated with 1M NaOAc/HOAc buffer (5 L) (prepared by diluting 47.35 g of sodium acetate and 253.2 mL of acetic acid with water to a total volume of 5 L).

reactant | homopiperazine | 3.85 mol, 385.62 g | N1CCNCCC1 | C5H12N2
reactant | ethyl 6-chloronicotinate | 1.54 mol, 285.82 g | ClC1=NC=C(C(=O)OCC)C=C1 | C8H8ClNO2
reactant | n-hexyl lithium | 0.77 mol, 2.3 M, 335 mL | C(CCCCC)[Li]
reactant | NaOAc HOAc | 1M, 5 L | CC(=O)[O-].[Na+].CC(=O)O
reactant | sodium acetate | 47.35 g | C(C)(=O)[O-].[Na+]
solvent | THF | 3.9 L | C1CCOC1 | C4H8O
solvent | THF | 0.57 L | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | acetic acid | 253.2 mL | C(C)(=O)O | C2H4O2
product | (6-Chloro-pyridin-3-yl)-[1,4]diazepan-1-yl-methanone | ClC1=CC=C(C=N1)C(=O)N1CCNCCC1 | C11H14ClN3O
